US05442055
To a solution of 500 mg of 3-{(2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one in 20 ml of a mixture of tetrahydrofuran and water are added 0.9 ml of 30% aqueous hydrogen peroxide and 84 mg of lithium hydroxide in this order, and the mixture is stirred at the same temperature for one hour. The pH of the mixture is adjusted to about 10 by adding dropwise 5 ml of 1.5N aqueous sodium sulfite at the same temperature and tetrahydrofuran is removed under reduced pressure. The precipitated crystals are removed by filtration and the aqueous layer of the filtrate is washed with 20 ml of chloroform. 10 ml of 10% hydrochloric acid are added thereto and the pH of the mixture is adjusted to about one. The aqueous layer is extracted with 30 ml of ethyl acetate. The ethyl acetate layer is dried and then evaporated under reduced pressure to give the crude product. The product is recrystallized from a mixture of ethyl acetate and hexane to obtain 216 mg of (2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionic acid.

reactant | 3-{(2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-spiro[2,3-dihydro-4H-1,3-benzoxazine-2,1'-cyclohexan]-4-one | 500 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)N1C(C2=C(OC13CCCCC3)C=CC=C2)=O)C)=O | C27H40N2O5Si
reactant | hydrogen peroxide | 0.9 ml | OO | H2O2
reactant | lithium hydroxide | 84 mg | [OH-].[Li+]
reactant | sodium sulfite | 1.5N, 5 ml | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (2R)-2-[(3S, 4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionic acid | 216 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@H]1[C@H](C(=O)O)C)=O | C14H27NO4Si
